.title kicad schematic

.include 3_and.sub
* u14 net-_u14-pad1_ net-_u11-pad2_ net-_u1-pad13_ d_nand
x5 net-_u2-pad2_ net-_u3-pad2_ net-_u10-pad2_ net-_u15-pad1_ 3_and
x4 net-_u8-pad2_ net-_u3-pad2_ net-_u10-pad2_ net-_u14-pad1_ 3_and
x2 net-_u8-pad2_ net-_u9-pad2_ net-_u10-pad2_ net-_u12-pad1_ 3_and
x3 net-_u2-pad2_ net-_u9-pad2_ net-_u10-pad2_ net-_u13-pad1_ 3_and
* u13 net-_u13-pad1_ net-_u11-pad2_ net-_u1-pad14_ d_nand
* u12 net-_u12-pad1_ net-_u11-pad2_ net-_u1-pad15_ d_nand
* u16 net-_u16-pad1_ net-_u11-pad2_ net-_u1-pad11_ d_nand
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ port
* u15 net-_u15-pad1_ net-_u11-pad2_ net-_u1-pad12_ d_nand
* u17 net-_u17-pad1_ net-_u11-pad2_ net-_u1-pad10_ d_nand
* u19 net-_u19-pad1_ net-_u11-pad2_ net-_u1-pad7_ d_nand
* u18 net-_u18-pad1_ net-_u11-pad2_ net-_u1-pad9_ d_nand
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
x9 net-_u2-pad2_ net-_u3-pad2_ net-_u10-pad1_ net-_u19-pad1_ 3_and
x8 net-_u8-pad2_ net-_u3-pad2_ net-_u10-pad1_ net-_u18-pad1_ 3_and
x1 net-_u5-pad2_ net-_u6-pad2_ net-_u7-pad2_ net-_u11-pad1_ 3_and
* u5 net-_u1-pad6_ net-_u5-pad2_ d_inverter
* u6 net-_u1-pad4_ net-_u6-pad2_ d_inverter
* u7 net-_u1-pad5_ net-_u7-pad2_ d_inverter
* u4 net-_u1-pad3_ net-_u10-pad1_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u9 net-_u3-pad2_ net-_u9-pad2_ d_inverter
* u8 net-_u2-pad2_ net-_u8-pad2_ d_inverter
* u3 net-_u1-pad2_ net-_u3-pad2_ d_inverter
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
x7 net-_u2-pad2_ net-_u9-pad2_ net-_u10-pad1_ net-_u17-pad1_ 3_and
x6 net-_u8-pad2_ net-_u9-pad2_ net-_u10-pad1_ net-_u16-pad1_ 3_and
a1 [net-_u14-pad1_ net-_u11-pad2_ ] net-_u1-pad13_ u14
a2 [net-_u13-pad1_ net-_u11-pad2_ ] net-_u1-pad14_ u13
a3 [net-_u12-pad1_ net-_u11-pad2_ ] net-_u1-pad15_ u12
a4 [net-_u16-pad1_ net-_u11-pad2_ ] net-_u1-pad11_ u16
a5 [net-_u15-pad1_ net-_u11-pad2_ ] net-_u1-pad12_ u15
a6 [net-_u17-pad1_ net-_u11-pad2_ ] net-_u1-pad10_ u17
a7 [net-_u19-pad1_ net-_u11-pad2_ ] net-_u1-pad7_ u19
a8 [net-_u18-pad1_ net-_u11-pad2_ ] net-_u1-pad9_ u18
a9 net-_u11-pad1_ net-_u11-pad2_ u11
a10 net-_u1-pad6_ net-_u5-pad2_ u5
a11 net-_u1-pad4_ net-_u6-pad2_ u6
a12 net-_u1-pad5_ net-_u7-pad2_ u7
a13 net-_u1-pad3_ net-_u10-pad1_ u4
a14 net-_u10-pad1_ net-_u10-pad2_ u10
a15 net-_u3-pad2_ net-_u9-pad2_ u9
a16 net-_u2-pad2_ net-_u8-pad2_ u8
a17 net-_u1-pad2_ net-_u3-pad2_ u3
a18 net-_u1-pad1_ net-_u2-pad2_ u2
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u14 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u13 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u16 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u15 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u17 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u19 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u18 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.1e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
