* h:\esim\esim\library\subcircuitlibrary\cmos_invtr\cmos_invtr.cir


xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
* u1  net-_sc1-pad2_ net-_sc1-pad3_ net-_sc2-pad3_ net-_sc1-pad1_ port
* s c m o d e
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
