* h:\esim\esim\library\subcircuitlibrary\dff_ce\dff_ce.cir

.include D_FF.sub

xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
* s c m o d e
* u1  net-_sc1-pad3_ net-_sc1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ port
x1 net-_u1-pad3_ net-_sc1-pad1_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ D_FF
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
