* Subcircuit DFF_CE
.subckt DFF_CE net-_sc1-pad3_ net-_sc1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ 
* h:\esim\esim\library\subcircuitlibrary\dff_ce\dff_ce.cir
.include D_FF.sub
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
* s c m o d e
x1 net-_u1-pad3_ net-_sc1-pad1_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ D_FF
* Control Statements

.ends DFF_CE